US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]heptane-1,7-diamine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and heptane-1,7-diamine. MS obsd. (ESI+) [(M+H)+] 467, 1H NMR (400 MHz, CD3OD) δ ppm 8.07 (dd, J=1.2, 0.8 Hz, 1 H), 7.97 (s, 1 H), 7.92 (d, J=7.6 Hz, 1 H), 7.74-7.68 (m, 2 H), 7.61-7.56 (m, 2 H), 5.91 (s, 1 H), 5.32 (s, 2 H), 4.52 (brs, 2 H), 3.75 (d, J=4.80 Hz, 2 H), 3.31 (d, J=1.60 Hz, 2 H), 2.94 (m, 2 H), 2.45 (s, 3 H), 1.72 (m, 4 H), 1.50 (m, 6 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | heptane-1,7-diamine | C(CCCCCCN)N | C7H18N2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]heptane-1,7-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCCCCCCN)C)=O | C26H34N4O2S
